US06124264
A. 4-Oxo-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester
To a mixture of 7.00 g (36.2 mmol) of 4-oxo-piperidine-3-carboxylic acid methyl ester and 8.82 g (72.3 mmol) of 4,4-dimethylaminopyridine in 200 mL of methylene chloride at about 0° C. was added a solution of 7.88 g (36.2 mmol) of di-tert-butyldicarbonate in 150 mL of methylene chloride over about 30 min. The mixture was warmed to room temperature and then stirred for about 17 h. The mixture was concentrated and the residue was diluted with chloroform and washed three times each with 10% aqueous HCl, saturated aqueous sodium bicarbonate solution and brine, dried over MgSO4 and concentrated to give 9.18 g of a clear yellow oil.

reactant | 4-oxo-piperidine-3-carboxylic acid methyl ester | 36.2 mmol, 7.00 g | COC(=O)C1CNCCC1=O | C7H11NO3
reactant | 4,4-dimethylaminopyridine | 72.3 mmol, 8.82 g | CNC1(CC=NC=C1)NC | C7H13N3
reactant | di-tert-butyldicarbonate | 36.2 mmol, 7.88 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-Oxo-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 9.18 g | COC(=O)C1CN(CCC1=O)C(=O)OC(C)(C)C | C12H19NO5
